US08629158B2
a) 4-(4-Chlorophenethyl)piperazin-2-one
Piperazinone (1.04 g, 10.4 mmol), 1-chloro-4-(2-chloroethyl)benzene (2.28 g, 10.4 mmol) and K2CO3 (1.72 g, 12.4 mmol) were combined in DMSO (12 mL) and heated to 85° C. for 2 h. The mixture was partitioned between H2O (20 mL) and CH2Cl2 (20 mL), and the organic layer was removed. The aqueous layer was extracted with CH2Cl2 (3×20 mL), the combined organics were concentrated, and the residue was dissolved in 2 N HCl (50 mL). This acidic mixture was washed with CH2Cl2 (3×20 mL) and then made basic with 6 N NaOH. The basic mixture was extracted with CH2Cl2 (3×20 mL), and the extracts were combined, dried and concentrated to provide the title compound (1.51 g, 60%) as an orange solid: 1H NMR (500 MHz, DMSO-d6) δ 7.72 (s, 1H), 7.32 (d, J=8.8 Hz, 2H), 7.26 (d, J=8.8 Hz, 2H), 3.14-3.10 (m, 2H), 2.96 (s, 2H), 2.74 (t, J=6.6 Hz, 2H), 2.62-2.53 (m, 4H).

reactant | Piperazinone | 10.4 mmol, 1.04 g | N1C(CNCC1)=O | C4H8N2O
reactant | 1-chloro-4-(2-chloroethyl)benzene | 10.4 mmol, 2.28 g | ClC1=CC=C(C=C1)CCCl | C8H8Cl2
reactant | K2CO3 | 12.4 mmol, 1.72 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | 4-(4-Chlorophenethyl)piperazin-2-one | 1.51 g, 60% | ClC1=CC=C(CCN2CC(NCC2)=O)C=C1 | C12H15ClN2O
